US09340547B2
(S)-1-(tert-Butoxycarbonyl)-4,4-difluoropyrrolidine-2-carboxylic acid
1.08 g (4.08 mmol) of (S)-1-tert-butyl 2-methyl 4,4-difluoropyrrolidine-1,2-dicarboxylate (purchased from Aldrich®; cat. no. 702463) were dissolved in a mixture of 10 mL of methanol and 10 mL of tetrahydrofurane and 6.12 mL of a 2M aqueous solution of sodium hydroxide were added. The solution was stirred at room temperature for 1 hour and then the organic solvents were removed. The remaining solution was diluted with water and 6.12 mL of 2M hydrochloric acid were added. The product that precipitated was extracted with dichloromethane (×3), the combined organic layers were washed with brine, dried over magnesium sulphate, filtered and the solvent was removed. 1.01 g (99% yield) of the title compound were obtained as a white solid.

reactant | (S)-1-tert-butyl 2-methyl 4,4-difluoropyrrolidine-1,2-dicarboxylate | 4.08 mmol, 1.08 g | FC1(C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OC)F | C11H17F2NO4
solvent | methanol | 10 mL | CO | CH4O
solvent | tetrahydrofurane | 10 mL | O1CCCC1 | C4H8O
solvent | sodium hydroxide | [OH-].[Na+]
product | (S)-1-(tert-Butoxycarbonyl)-4,4-difluoropyrrolidine-2-carboxylic acid | 1.01 g, 99% yield | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)(F)F)C(=O)O | C10H15F2NO4
